US07781428B2
(±)-(3SR,3aRS)-2-(benzyloxy)-2-oxoethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and benzyl glycolate according to Method E. 1H NMR (400 MHz, CDCl3) δ ppm 1.20-1.68 (m, 7H), 1.72-1.84 (m, 1H), 1.96 (ddd, J=26.18, 12.89, 4.16 Hz, 1H), 2.06-2.20 (m, 1H), 2.25-2.35 (m, 1H), 2.84-2.98 (m, 1H), 3.12 (ddd, J=15.91, 3.36, 3.02 Hz, 1H), 3.49 (ddd, J=113.83, 9.40, 4.70 Hz, 1H), 4.65 (dd, J=9.40, 5.37 Hz, 1H), 4.92 (s, 2H), 5.25 (s, 2H), 7.03 (dd, J=8.73, 2.01 Hz, 1H), 7.31 (d, J=2.15 Hz, 1H), 7.33-7.42 (m, 5H), 7.46 (d, J=8.86 Hz, 1H), 7.93-8.03 (m, 2H), 8.17 (d, J=8.59 Hz, 1H).

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | benzyl glycolate | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
product | (±)-(3SR,3aRS)-2-(benzyloxy)-2-oxoethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCC(=O)OCC3=CC=CC=C3 | C33H30ClN3O4
